2148-10-05 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - therapeutic paracentesis got off 3L
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-4**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-5**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 114 (103 - 123) bpm
   BP: 85/44(53) {63/32(41) - 96/64(68)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.8 kg (admission): 68.3 kg
   Height: 65 Inch
             Total In:
                                                                  1,140 mL
                                                                    153 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     20 mL
                                                                     33 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,140 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Awake and alert
   RRR, cta b/l
   Abd distended, + fluid wave,  nontender
   Trace edema
   Labs / Radiology
   292 K/uL
   7.2 g/dL
   140 mg/dL
   4.3 mg/dL
   27 mEq/L
   4.5 mEq/L
   52 mg/dL
   95 mEq/L
   137 mEq/L
   24.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2148-10-4**]  07:59 PM
                             [**2148-10-4**]  10:55 PM
                             [**2148-10-5**]  03:15 AM
   WBC
   7.2
   8.2
   Hct
   25.3
   25.8
   24.6
   Plt
   309
   292
   Cr
   3.9
   4.3
   TropT
   0.62
   0.51
   Glucose
   125
   140
   Other labs: PT / PTT / INR:18.2/34.6/1.6, CK / CKMB /
   Troponin-T:16/4/0.51, ALT / AST:22/26, Alk Phos / T Bili:79/1.1, Lactic
   Acid:3.7 mmol/L, Albumin:3.5 g/dL, LDH:145 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: Peritoneal fluid:
   WBC 9000
     Polys 80
     Lymphs 1
     Macroph 19
   RBC  1100
   Microbiology: Peritoneal GS negative, Cx pending
   Blood cx pending, C diff negative
   Assessment and Plan
 ASCITES
 IMPAIRED SKIN INTEGRITY
 DIARRHEA
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
   A 63 year old lady with a complicated history of ESRD and ESLD from
   polycystic kidney disease.  She presents with hypotension and
   tachycardia after an episode of dialysis yesterday and labs consistent
   with spotaneous bacterial peritonitis.  She appears quite well despite
   her overall condition.
   #. Sepsis:  The patient is hypotensive, tachycardic with low grade
   temps in the setting of SBP.  Basline SBP 80s, but no history of
   tachycardia.  Given small fluid boluses and 100g albumin with some
   improvement. This is concerning for distributive hypotension from
   infection given evidence of SBP.  The patient's CXR is wnl and she does
   not make urine.  No indication of central infection or need for LP.
   Elevated lactate without acidosis not concerning given lack of renal
   clearance.
   - Small boluses of NS prn
   - Fludrocortisone & Midrodrine per home doses
   - Continue Ceftriaxone 1g daily, no additional Vancomycin given lack of
   renal function
   - F/U Blood and peritoneal cultures and narrow appropriately.
   - F/u  C. diff given recent abx
   - [**Doctor Last Name **] with HD
   #. Spotaneous bacterial peritonitis: Elevated PMN on diagnositic
   paracentesis although gram stain negative.
   - Continue Ceftriaxone 1g IV Q24 hours
   - Albumin 1.5g/kg (100g) [**10-5**] give and 1g/kg (66g) on [**10-7**]
   - Hold Vanc for now given renal function
   - Appreciate hepatology input
   #. Anemia: Hct drop from admission, now stable.  No obvious bleeding.
   Likely chronic component
   - Monitor PM hct
   - Active T&S
   #. Ascites/ESLD: The patient's LFTs are within normal limits but she
   has significant ascites on exam.  She was scheduled for a large volume
   paracentesis today of 8-10L.  Given hypotension, she had a therapeutic
   para and about 3L were removed.
   - Repeat therapeutic para if worsening abdominal pain/distention or
   respiratory distress
   - Hep input appreciated
   #. s/p bilateral nephrectomy: Renal is following closely, electrolytes
   within normal limits.
   - Renally dose all meds
   - Nephrocaps
   - Appreciate Renal input
   - HD per renal
   - Renagel
   #. Elevated Troponin: The patient's elevated troponin, but trending
   down without CK or MB elevation, chest pain or EKG changes beyond
   tachycardia and a strain pattern.  Likely from stress and lack of renal
   clearance.
   - Repeat EKG
   #. FEN: No IVF, replete electrolytes, renal diet with supplements TID
   #. Prophylaxis: Subutaneous heparin; Senna PRN; Omeprazole
   #. Access: peripheral & HD Line
   #. Code:  Full & Confirmed
   #. Communication: Patient & Husband [**Name (NI) 82**] [**Telephone/Fax (1) 9813**]
   #. Disposition: MICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-10-4**] 03:06 PM
   18 Gauge - [**2148-10-4**] 03:08 PM
   22 Gauge - [**2148-10-4**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the pt independently, & was physically present with
   the ICU team for the key portions of services provided. I agree with
   Dr. [**Last Name (STitle) 9841**]
s note above, including assessment and plan. I would add:
   63 yo f with PCKD s/p bil nephrectomy, ESLD (cystic liver disease) ,
   CVA, prior CVA with baseline aphasia, seizure disorder admitted
   yesterday from ED due to hypotension during HD to SBP 60's, baseline
   80's. Temporary HD catheter placed 1 day prior to HD
   ED interventions: 250 cc bolus, VAnc/CTX for empiric SBP; ?steroids
   Troponin 0.9 with new TWI V2 and V3
   Ascitic fluid: 9000 WBC
   Overnight: 3 liters therapeutic paracentesis
   Rx'd for SBP with Vanc/CTX, albumin per SBP protocol
   SBP's range 63-96/32-64, closer to 70-80's overnight
   WBC 8.2, Hct 24.6 (unchanged)
   Blood and peritoneal cx's pending, GS negative
   Hep SQ, syntrhoid, PPI, reglan, fludrocortisone, mitodrine, CTX
   PE: alert, conversant
   Lungs CTA, right SC HD catheter
   CV 3/6 SEM at LSB
   Abd: ascites
   Ext trace edema
   Imp: 63 yo female with-
   (1) sepsis from SBP- BP's better though still slightly below baseline.
   Remains tachycardic which is of concern. As she otherwise looks well
   and the overall all trend has been for improvement (albeit  slow) would
   continue to hold off on either fluid resuscitation or pressors.
   Fluid resuscitation if BP starts to drop
   On Vanc/CTX and will f/u cultures
   On mitodrine/fludrocortisone
   (2) SBP- CTX, 1 gm/kg dose of albumin tomorrow
   (3) Decompensated cirrhosis: therapeutic para as needed. given ongoing
   hypotension, would avoid large volume paracentesis to prevent fluid
   shifts
   (4) ESRD: No HD today given ongoing hypotension ,  lack of acute
   indicators, renal team following
   (5) abn'l CK enzymes: suspect from demand ischemia, trend cardiac
   enzymes and will obtain f/u ECG
   Pt is critically ill. Total time spent on pt: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2148-10-5**] 11:57 ------

2148-10-06 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypotension and bacteremia
   24 Hour Events:
 EKG - At [**2148-10-5**] 05:50 PM
 STOOL CULTURE - At [**2148-10-5**] 07:15 PM CDiff sample #2 of 3
   - **** Staph Aureus grew out from para fluid. No [**Doctor Last Name 9852**] yet. ***
   - repeat EKG: sinus tachycardia
   - PM Hct, CE's: Hct increased to 27.0 from 24.6, CK 15, MB not done,
   Trop......
   - Liver recs: continue Ceftriaxone, albumin 1.5gm/kg day 1 then 1.0
   gm/kg day 3, and will need therapeutic para before d/c
   - Renal recs: Hold off on HD through weekend, dose meds for GFR <15,
   agree with Ceftriaxone, and agree with Fludrocortisone
   - Husband asking for supplements through the NGT as she was taking at
   home, doesn't remember name, will be going home later and can call
   back. Could possibly be??:  Isosource 1.5 Cal Full strength (what she
   was written for during last admission) --> started Isosource
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-10-5**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-10-5**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-10-6**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 116 (114 - 128) bpm
   BP: 89/45(55) {75/39(47) - 100/78(83)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.8 kg (admission): 68.3 kg
   Height: 65 Inch
                  Total In:
                                                                    973 mL
                                                                    271 mL
   PO:
                                                                    760 mL
                  TF:
                                                                    101 mL
                                                                    211 mL
   IVF:
                                                                     83 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented x3, denies pain except for a dry throat.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Lungs: Clear to auscultation anteriorly, unable to sit patient up for
   sufficient exam
   CV: tachcardic, regular S1 and S2 with loud systolic murmur.
   Abdomen:  Distended but soft with signs of previous paracentesis and
   midline reducible hernia. Bowel sounds present.
   Ext: R Subclavian/IJ HD line in place, no peripheral edema.
   Labs / Radiology
   363 K/uL
   8.8 g/dL
   108 mg/dL
   5.3 mg/dL
   25 mEq/L
   4.7 mEq/L
   68 mg/dL
   91 mEq/L
   134 mEq/L
   30.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2148-10-4**]  07:59 PM
                             [**2148-10-4**]  10:55 PM
                             [**2148-10-5**]  03:15 AM
                             [**2148-10-5**]  03:14 PM
                             [**2148-10-6**]  03:59 AM
   WBC
   7.2
   8.2
   9.1
   Hct
   25.3
   25.8
   24.6
   27.0
   30.5
   Plt
   [**Telephone/Fax (3) 9853**]
   Cr
   3.9
   4.3
   5.3
   TropT
   0.62
   0.51
   0.43
   0.46
   Glucose
   125
   140
   108
   Other labs: PT / PTT / INR:15.7/30.6/1.4, CK / CKMB /
   Troponin-T:20/4/0.46, ALT / AST:22/26, Alk Phos / T Bili:79/1.1, Lactic
   Acid:3.1 mmol/L, Albumin:3.5 g/dL, LDH:145 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Imaging: AP CXR: No acute intrathoracic process.
   Microbiology: [**10-4**] Peritoneal: Staph aureus, no [**Last Name (un) 46**].
   [**10-4**] Blood cx: GPC
   11/06+7 C.diff: negative
   MRSA screening pending
   ECG: [**10-4**] sinus tachycardia
   Assessment and Plan
 ASCITES
 IMPAIRED SKIN INTEGRITY
 DIARRHEA
 HEPATIC FAILURE, FULMINANT
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan:
   A 63 year old lady with a complicated history of ESRD and ESLD from
   polycystic kidney disease.  She presents with hypotension and
   tachycardia after an episode of dialysis yesterday, staph aureus
   peritonitis and bacteremia.  She appears quite well despite her overall
   condition.
   #. Sepsis/hypotension:  The patient is growing staph aureus from her
   peritoneal fluid and has GPC
s in her blood.  Pressures are improved
   and she is stably hypotensive.  Her mental status is clear, suggesting
   she is adequately perfused.  She has a notable murmur on exam, which is
   likely old considering her abnormal echo in [**8-7**].  She remains
   tachycardic likely due to under-resuscitation, but we would prefer not
   to give further fluids as she is anuric.  Her elevated lactate is not
   concerning as it is stable and she has no renal clearance.  Per ID, we
   will leave in her dialysis line at this time and obtain surveillance
   cultures.
   - Albumin for fluid replacement per SBP protocol, small boluses of NS
   prn
   - Start with TTE, but if negative may require TEE given her high-grade
   bacteremia.
   - Fludrocortisone & Midrodrine per home doses
   - Continue Ceftriaxone 1g daily, repeat vancomycin dose as level was 13
   (goal 15-20 w/ high-dose bacteremia).
   - Surveillance blood cultures today and tomorrow.  If possible, should
   get cultures at dialysis through dialysis catheter to assess for other
   potential site.
   - F/U Blood and peritoneal cultures and narrow appropriately. -> likely
   MRSA given hospitalizations and frequent taps.
   #. Bacterial peritonitis: Given she is growing staph aureus, most
   likely not SBP but seeded by pericentesis.  We will treat with abx and
   then repeat a tap early this coming week.
   - Continue Ceftriaxone 1g IV Q24 hours.  Extra vanco dose given today,
   dosing based on levels.
   - Albumin 1.5g/kg (100g) today and 1g/kg (66g) on day 3
   - Appreciate hepatology input
   #. Ascites/ESLD: The patient's LFTs are within normal limits but she
   has significant ascites on exam.  She is supposed to have a large
   volume paracentesis at some point of 8-10L.
   - Therapeutic Paracentesis, lower volume given hypotension (3-5L),
   should be done early this week.
   - Hep input appreciated
   #. s/p bilateral nephrectomy: Renal is following closely, electrolytes
   within normal limits.  Plan to hold off on dialysis for the weekend.
   - Renally dose all meds
   - Nephrocaps
   - Appreciate Renal input
   - HD per renal
   - Renagel
   #. Elevated Troponin: The patient has a stably elevated troponin and
   low CK.  Likely from stress and lack of renal clearance.  No need to
   trend further.
   FEN: No IVF, replete electrolytes, renal diet with supplements TID
   Prophylaxis: Subutaneous heparin; Senna PRN; Omeprazole
   Access: peripheral & HD Line
   Code:  Full & Confirmed
   Communication: Patient & Husband [**Name (NI) 82**] [**Telephone/Fax (1) 9813**]
   [**Name2 (NI) **]osition: Stable for call-out to the floor.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2148-10-5**] 04:57 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-10-4**] 03:06 PM
   18 Gauge - [**2148-10-4**] 03:08 PM
   22 Gauge - [**2148-10-4**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call-out to the floor.